US08865726B2
A solution of (S)-methyl-2-isocyanato-3-methylbutanoate (4.46 mL, 29.9 mmol) in CHCl3 (50 mL) was added drop-wise to a solution of (2,4-dimethoxyphenyl)-methanamine (5.00 g, 29.9 mmol) and NEt3 (8.34 mL, 59.8 mmol) in CHCl3 (100 mL) at ambient temperature. The resultant mixture was heated at 60° C. for 12 hours, then cooled to ambient temperature. The cooled reaction mixture was concentrated to provide (S)-methyl 2-(3-(2,4-dimethoxybenzyl)ureido)-3-methylbutanoate as a white solid, 1.25 g (13%). LCMS (APCI+) m/z 325 [M+H]+.

reactant | (S)-methyl-2-isocyanato-3-methylbutanoate | 29.9 mmol, 4.46 mL | COC([C@H](C(C)C)N=C=O)=O | C7H11NO3
reactant | (2,4-dimethoxyphenyl)-methanamine | 29.9 mmol, 5.00 g | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | NEt3 | 59.8 mmol, 8.34 mL | CCN(CC)CC | C6H15N
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | (S)-methyl 2-(3-(2,4-dimethoxybenzyl)ureido)-3-methylbutanoate | COC1=C(CNC(N[C@H](C(=O)OC)C(C)C)=O)C=CC(=C1)OC | C16H24N2O5
